US07517878B2
Step 1: Preparation of ethyl 4-{[3-tert-butyl-1-(2,5-dimethylphenyl)-1H-pyrazol-5-yl]amino}-2-(methylthio)pyrimidine-5-carboxylate
To a dried 15 mL tube was added 3-tert-butyl-1-(2,5-dimethylphenyl)-1H-pyrazol-5-amine (106 mg, 0.44 mmol), synthesized in the same manner as intermediate F, ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate (101 mg, 0.44 mmol), Pd2(dba)3 (20 mg, 0.022 mmol), BINAP (27 mg, 0.044 mmol), and Cs2CO3 (199 mg, 0.61 mmol). The flask was degassed followed by addition of toluene (2 mL), and the mixture was then heated to 110° C. for 20 h. The mixture was cooled to rt, filtered through a silica gel plug using ethyl acetate as eluent, concentrated to dryness, and subjected to HPLC purification using a gradient elution from 45% to 90% acetonitrile in water to afford 81 mg (42%) of the desired product. 1H NMR (300 MHz, CD2Cl2) δ 10.23 (s, 1H), 8.72 (s, 1H), 7.24 (dd, 2H), 7.16 (s, 1H), 6.78 (s, 1H), 4.20 (q, 2H), 2.64 (s, 3H), 2.38 (s, 3H), 2.04 (s, 3H), 1.34 (s, 9H), 1.28 (t, 3H);. ES-MS m/z 440.2 (MH+); HPLC RT (min) 4.66.

reactant | 3-tert-butyl-1-(2,5-dimethylphenyl)-1H-pyrazol-5-amine | 0.44 mmol, 106 mg | C(C)(C)(C)C1=NN(C(=C1)N)C1=C(C=CC(=C1)C)C | C15H21N3
reactant | ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate | 0.44 mmol, 101 mg | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | BINAP | 0.044 mmol, 27 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.61 mmol, 199 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.022 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 4-{[3-tert-butyl-1-(2,5-dimethylphenyl)-1H-pyrazol-5-yl]amino}-2-(methylthio)pyrimidine-5-carboxylate | 81 mg, 42% | C(C)(C)(C)C1=NN(C(=C1)NC1=NC(=NC=C1C(=O)OCC)SC)C1=C(C=CC(=C1)C)C | C23H29N5O2S
